datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC#CC#CCC(=O)[O-:10].Cc1ccccc1C[NH2+:21][H:20]>>CC#CC#CCC(=O)[O:10][H:20].Cc1ccccc1C[NH2:21] 10=20;20,21=21",
"O=[N+]([O-])c1ccc([O-])c(C[N+:21]2([H:20])CCOCCOCCOCCOCC2)c1.c1ccc(-c2nn[n-:10]n2)cc1>>O=[N+]([O-])c1ccc([O-])c(C[N:21]2CCOCCOCCOCCOCC2)c1.c1ccc(-c2nn[n:10]([H:20])n2)cc1 10=20;20,21=21",
"COc1ccc2nccc(C(O)C3CCCC[NH+:21]3[H:20])c2c1.Oc1cccc(O)c1[O-:10]>>COc1ccc2nccc(C(O)C3CCCC[NH:21]3)c2c1.Oc1cccc(O)c1[O:10][H:20] 10=20;20,21=21",
"CCOc1cc[n+:21]([H:20])c([O-])n1.Cc1ccccc1/C(=N\CCC[N:10](C)C)c1ccccc1Cl>>CCOc1cc[n:21]c([O-])n1.Cc1ccccc1/C(=N\CCC[N+:10](C)(C)[H:20])c1ccccc1Cl 10=20;20,21=21",
"CC1CCCC[NH:10]1.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC1CCCC[NH+:10]1[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CCCn1c[n+:21]([H:20])cn1.COc1ccc(C(O)C[NH:10]C(C)CC2=C(C)C(C)(C)CC2)cc1>>CCCn1c[n:21]cn1.COc1ccc(C(O)C[NH+:10](C(C)CC2=C(C)C(C)(C)CC2)[H:20])cc1 10=20;20,21=21",
"CC[C@]1(O)C[C@@H](C)[NH:10][C@@H]2CCCC[C@H]21.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC[C@]1(O)C[C@@H](C)[NH+:10]([H:20])[C@@H]2CCCC[C@H]21.N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"C[N+:21](CCC#N)(CCC#N)[H:20].O=[N+]([O-])c1ccc([O-])c(C[N:10]2CCOCCOCCOCCOCC2)c1>>C[N:21](CCC#N)CCC#N.O=[N+]([O-])c1ccc([O-])c(C[N+:10]2([H:20])CCOCCOCCOCCOCC2)c1 10=20;20,21=21",
"CC(C)(C)NCCCCCC[NH+:21](C(C)(C)C)[H:20].OC[C@@H]1CC[N:10]2CC[C@H](O)[C@H]12>>CC(C)(C)NCCCCCC[NH:21]C(C)(C)C.OC[C@@H]1CC[N+:10]2([H:20])CC[C@H](O)[C@H]12 10=20;20,21=21",
"CC(C)(C)[N+:21]1([H:20])NC2CCC1C2.CCCC[NH:10]Cc1ccccc1>>CC(C)(C)[N:21]1NC2CCC1C2.CCCC[NH+:10](Cc1ccccc1)[H:20] 10=20;20,21=21",
"CC[S+:21](C(O)(O)C(F)(F)F)[H:20].O=C([O-])C1CCC[NH:10]1>>CC[S:21]C(O)(O)C(F)(F)F.O=C([O-])C1CCC[NH+:10]1[H:20] 10=20;20,21=21",
"CCC(C)[NH:10]C(C)C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCC(C)[NH+:10](C(C)C)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"Cc1nc([N-:10]S(=O)(=O)c2ccc(N)cc2)no1.[O-]c1c(Cl)cc(Cl)c(Cl)c1C[N+:21]1([H:20])CCCCC1>>Cc1nc([N:10](S(=O)(=O)c2ccc(N)cc2)[H:20])no1.[O-]c1c(Cl)cc(Cl)c(Cl)c1C[N:21]1CCCCC1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc2c(c1)ncc1ccc([O-:10])cc12>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc2c(c1)ncc1ccc([O:10][H:20])cc12 10=20;20,21=21",
"Clc1cc(Cl)c[n:10]c1.Nc1ccc[nH+]c1C(=O)[O:21][H:20]>>Clc1cc(Cl)c[n+:10]([H:20])c1.Nc1ccc[nH+]c1C(=O)[O-:21] 10=20;20,21=21",
"CCCCCC[NH:10]Cc1ccc(C)cc1.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CCCCCC[NH+:10](Cc1ccc(C)cc1)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"O=C([O-])CC(c1ncc[nH]1)c1[nH]cc[n+:21]1[H:20].[NH3+]/N=C/c1ncnc2c1[nH]c[n:10]2>>O=C([O-])CC(c1ncc[nH]1)c1[nH]cc[n:21]1.[NH3+]/N=C/c1ncnc2c1[nH]c[n+:10]2[H:20] 10=20;20,21=21",
"N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1.O=C([O-])[C@@H](NCC[NH:10][C@@H](C(=O)[O-])c1ccccc1[O-])c1ccccc1[O-]>>N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1.O=C([O-])[C@@H](NCC[NH+:10]([C@@H](C(=O)[O-])c1ccccc1[O-])[H:20])c1ccccc1[O-] 10=20;20,21=21",
"CCC(O)C(C(=O)[O:21][H:20])c1ccc(-c2ccccc2)cc1.c1c[nH+]c2ccc([NH2:10])cc2c1>>CCC(O)C(C(=O)[O-:21])c1ccc(-c2ccccc2)cc1.c1c[nH+]c2ccc([NH2+:10][H:20])cc2c1 10=20;20,21=21",
"CCc1ccnc2c1ccc1c(CC)cc[n:10]c12.FC(F)(F)c1cccc([N:21](C=S)[H:20])c1>>CCc1ccnc2c1ccc1c(CC)cc[n+:10]([H:20])c12.FC(F)(F)c1cccc([N-:21]C=S)c1 10=20;20,21=21",
"CC1(C)[C@@H]2CC[C@](C(=O)[O:21][H:20])(C2)[C@H]1O.O=[N+]([O-])c1ccc([N-:10]S(=O)(=O)c2ccccc2)cc1>>CC1(C)[C@@H]2CC[C@](C(=O)[O-:21])(C2)[C@H]1O.O=[N+]([O-])c1ccc([N:10](S(=O)(=O)c2ccccc2)[H:20])cc1 10=20;20,21=21",
"Clc1cc(Cl)c([O:21][H:20])c(C[NH+]2CCCCC2)c1Cl.N#CC(C#N)=N[N-:10]c1cccc(Cl)c1>>Clc1cc(Cl)c([O-:21])c(C[NH+]2CCCCC2)c1Cl.N#CC(C#N)=N[N:10](c1cccc(Cl)c1)[H:20] 10=20;20,21=21",
"C=CC(Cl)C(=O)[O-:10].O=Cc1cc([N+](=O)[O-])cc(Br)c1[O:21][H:20]>>C=CC(Cl)C(=O)[O:10][H:20].O=Cc1cc([N+](=O)[O-])cc(Br)c1[O-:21] 10=20;20,21=21",
"Cc1ccc(SCC(=O)[O-:10])cc1.O=S(=O)(C(F)(F)Cl)[NH:21][H:20]>>Cc1ccc(SCC(=O)[O:10][H:20])cc1.O=S(=O)(C(F)(F)Cl)[NH-:21] 10=20;20,21=21",
"CC(=O)c1cc(F)cc(C(=O)Nc2nnn[nH]2)c1[O-:10].CCCC1=C(C)[N:21]([H:20])N(C2CC[NH+](C)CC2)C1=O>>CC(=O)c1cc(F)cc(C(=O)Nc2nnn[nH]2)c1[O:10][H:20].CCCC1=C(C)[N-:21]N(C2CC[NH+](C)CC2)C1=O 10=20;20,21=21",
"CCOC(=O)/C(=N/[O-:10])c1ccccc1.O=S(=O)([O-])c1c([O:21][H:20])ccc2[nH]ncc12>>CCOC(=O)/C(=N/[O:10][H:20])c1ccccc1.O=S(=O)([O-])c1c([O-:21])ccc2[nH]ncc12 10=20;20,21=21",
"CN(C)c1sc2c([n+:21]1[H:20])CCCC2.NC(=O)NOCCC(C(=O)[O-])[NH2:10]>>CN(C)c1sc2c([n:21]1)CCCC2.NC(=O)NOCCC(C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"C[C:21](C1=CC=CC(Cl)=C1)([N+](=O)[O-])[H:20].OCC[O-:10]>>C[C-:21](C1=CC=CC(Cl)=C1)[N+](=O)[O-].OCC[O:10][H:20] 10=20;20,21=21",
"NC(=NO)/C(N)=N/[O-:10].Nc1cccc2[nH]c(Cc3ccccc3)[n+:21]([H:20])c12>>NC(=NO)/C(N)=N/[O:10][H:20].Nc1cccc2[nH]c(Cc3ccccc3)[n:21]c12 10=20;20,21=21",
"CC(=O)NCc1cc(C)cc(CNC(C)=O)c1[O-:10].O=C(c1ccc[nH]1)[O:21][H:20]>>CC(=O)NCc1cc(C)cc(CNC(C)=O)c1[O:10][H:20].O=C(c1ccc[nH]1)[O-:21] 10=20;20,21=21",
